US06432963B1
An 87 μl portion of acetyl chloride and −170 μl of triethylamine were added to a mixture of 318 mg of 2-(2-aminoethylamino)-4-(3-methylanilino)pyrimidine-5-carboxamide and 20 ml of ethyl acetate, followed by stirring at room temperature for 30 minutes. Water and THF were added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated under a reduced pressure. The resulting residue was recrystallized from a mixed solvent of THF and ethyl acetate, thereby obtaining 198 mg of 2-[(2-acetylaminoethyl)amino]-4-(3-methylanilino)pyrimidine-5-carboxamide (colorless crystals).

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | −170 μl | C(C)N(CC)CC | C6H15N
reactant | 2-(2-aminoethylamino)-4-(3-methylanilino)pyrimidine-5-carboxamide | 318 mg | NCCNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C14H18N6O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-[(2-acetylaminoethyl)amino]-4-(3-methylanilino)pyrimidine-5-carboxamide | 198 mg | C(C)(=O)NCCNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C16H20N6O2
